US09034903B2
1-(1-(2-ethylbutanoyl)piperidin-4-yl)-3-(4-(trifluoromethyl)phenyl)urea
To an ice cold solution of 4-(trifluoromethyl)phenyl isocyanate (56.1 mg, 0.3 mmol) in THF (1.5 ml) was added 1-(4-aminopiperidin-1-yl)-2-ethylbutan-1-one (59.4 mg, 0.3 mmol), prepared via Example 14 and Example 15 using 2-ethylbutanoic acid. The reaction mixture was allowed to warm to rt and stirred overnight. 1 M HCl aqueous solution was added followed by extraction with EtOAc. Flash chromatography eluted with 50:1 DCM:MeOH followed by recrystallization from acetone afforded desired compound (64 mg, 55%) as a white solid. Mp 207.9-209.3° C. 1H NMR (400 MHz, DMSO-d6) δ 8.74 (s, 1H), 7.57 (m, 4H), 6.40 (d, J=7.6 Hz, 1H), 4.28 (brd, J=12.4 Hz, 1H), 3.96 (brd, J=13.6 Hz, 1H), 3.78-3.70 (m, 1H), 3.18 (t, J=11.6 Hz, 1H), 2.82 (t, J=11.0 Hz, 1H), 2.67-2.60 (m, 1H), 1.89 (d, J=10.8 Hz, p 1H), 1.83 (d, J=10.4 Hz, 1H), 1.56-1.42 (m, 2H), 1.42-1.31 (m, 2H), 1.31-1.16 (m, 2H), 0.83-0.75 (m, 6H). F NMR (300 M Hz, DMSO-d6) −60.324 (s).

reactant | 4-(trifluoromethyl)phenyl isocyanate | 0.3 mmol, 56.1 mg | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
reactant | 1-(4-aminopiperidin-1-yl)-2-ethylbutan-1-one | 0.3 mmol, 59.4 mg | NC1CCN(CC1)C(C(CC)CC)=O | C11H22N2O
reactant | 2-ethylbutanoic acid | C(C)C(C(=O)O)CC | C6H12O2
reactant | HCl | 1 M | Cl | ClH
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
product | 1-(1-(2-ethylbutanoyl)piperidin-4-yl)-3-(4-(trifluoromethyl)phenyl)urea | 64 mg, 55% | C(C)C(C(=O)N1CCC(CC1)NC(=O)NC1=CC=C(C=C1)C(F)(F)F)CC | C19H26F3N3O2
